US04925849
1-[3-(2-Phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-hydroxymethylpiperidine (trans isomer) (0.50 g) was added to a stirred solution of acetic anhydride (0.16 g) in pyridine (5 ml) at room temperature, and stirred at room temperature for 3 hours. Ethyl acetate was added to the reaction mixture and washed with 1N aqueous sodium hydroxide solution, water and saturated sodium chloride aqueous solution, then dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (50 g) with a mixture of chloroform and acetone (20: 1) as an eluent. The fractions containing the objective compound were combined and evaporated in vacuo to give 1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-acetoxymethylpiperidine (trans isomer) (0.35 g) as an oil.

reactant | 1-[3-(2-Phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-hydroxymethylpiperidine | 0.50 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)CO | C22H23N3O2
reactant | acetic anhydride | 0.16 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-acetoxymethylpiperidine | 0.35 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)COC(C)=O | C24H25N3O3
